US06335459B1
Powdered potassium carbonate (5 g) was added to a solution of 3-hydroxybenzaldehyde (3.1 g, 25 mmol) and methyl bromoacetate (4.6 g, 30 mmol) dissolved in acetone (40 mL), and the mixture was stirred under reflux for 4 hours. The reaction mixture was then poured into excess water, extracted with dichloromethane, and evaporated. The resultant yellow oil was distilled on the Kugelrohr (1 mmHg, 150° C.) to give (3-formylphenoxy)acetic acid methyl ester as a colorless oil (4.53 g, 93%).

reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxybenzaldehyde | 25 mmol, 3.1 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | methyl bromoacetate | 30 mmol, 4.6 g | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | (3-formylphenoxy)acetic acid methyl ester | 4.53 g, 93% | COC(COC1=CC(=CC=C1)C=O)=O | C10H10O4
